US03987067
Following the procedure of Example 1 but using 0.738 g. of PGF2α, 0.306 ml. of triethylamine, 0.288 ml. of isobutylchloroformate, and 0.299 g. of o-hydroxybenzamide, there is obtained a crude residue. This residue is subjected to silica gel chromatography, eluting with ethyl acetate-acetone-water (25:75:1). The residue obtained by concentration of selected fractions, 0.296 g., is crystallized from ethyl acetate diluted with 1.5 volumes of hexane as the title compound, white free-flowing crystals, m.p. 98.5°-100.1° C. having Rf 0.55 (TLC on silica gel in ethyl acetate-acetone (1:3)).

reactant | PGF2α | CCCCC[C@@H](/C=C/[C@H]1[C@@H](C[C@@H]([C@@H]1C/C=C\CCCC(=O)O)O)O)O | C20H34O5
reactant | isobutylchloroformate | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
product | o-hydroxybenzamide | OC1=C(C(=O)N)C=CC=C1 | C7H7NO2
